US08026257B2
(±)-7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole.
To a suspension of (±)-7-(1-((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole (24 mg, 0.065 mmol) and sodium cyanoborohydride (20.5 mg, 0.327 mmol) in acetonitrile (1.5 mL) at 0° C. was added formalin (0.053 mL). The reaction was treated with 1 drop of acetic acid. After 5 min, a second drop of acetic acid was added. The ice bath was removed and stirring continued for another 2 h. The reaction was diluted with diethyl ether and washed with 1 M sodium hydroxide. The ethereal was concentrated and purified by column chromatography (10% 2 M ammonia in MeOH/CH2Cl2) to give 12.5 mg (50.2%) as clear oil. 1H-NMR (CDCl3, 500 MHz) δ 9.67 (bs, 1H), 7.87 (s, 1H), 7.35 (s, 1H), 7.23-7.27 (m, 2H), 7.03-7.07 (m, 2H), 6.83 (s, 1H), 4.47 (q, J=10 Hz, 1H), 3.35 (d, J=10 Hz, 1H), 3.25 (d, J=10 Hz, 1H), 2.55-2.65 (m, 2H), 2.38 (s, 3H), 2.25-2.29 (m, 1H), 2.21(s, 3H), 1.9-2.2 (m, 5H), 1.40 (d, J=5.0 Hz, 3H); 13C-NMR (CDCl3, 126 MHz) δ 161.49 (d, J=980 Hz), 135.7, 133.9, 130.0, 128.8, 125.8, 125.7, 124.4, 118.9, 115.5, 115.3, 78.9, 51.9, 51.8, 50.9, 46.2, 32.7, 32.4, 22.4, 21.3; Mass spec.: 382.4 (MH)+.

reactant | (±)-7-(1-((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole | 0.065 mmol, 24 mg | FC1=CC=C(C=C1)C1(CCNCC1)COC(C)C=1C=C(C=C2C=NNC12)C | C22H26FN3O
reactant | sodium cyanoborohydride | 0.327 mmol, 20.5 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 0.053 mL | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
product | (±)-7-(1-((4-(4-Fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole | FC1=CC=C(C=C1)C1(CCN(CC1)C)COC(C)C=1C=C(C=C2C=NNC12)C | C23H28FN3O
